US06919331B2
A slurry of 3-(2,2,2-trifluoro-ethyl)-1H-quinazoline-2,4-dione (88 mg, 0.36 mmol) in THF (20 ml) was treated with BTPP (0.33 ml, 1.08 mmol) and stirred for 15 min at 23° C. [2-Chloromethyl-1-(3-methanesulfonyl-propyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (150 mg, 0.36 mmol) was added and the mixture stirred at 23° C. for 12 h. The solvent was removed and the residue triturated with water. The residue was chromatographed to give 40 mg (18%) of [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(3-methanesulfonyl-propyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester as a white solid.

reactant | 3-(2,2,2-trifluoro-ethyl)-1H-quinazoline-2,4-dione | 0.36 mmol, 88 mg | FC(CN1C(NC2=CC=CC=C2C1=O)=O)(F)F | C10H7F3N2O2
reactant | BTPP | 1.08 mmol, 0.33 ml | CC(C)(C)N=P(N1CCCC1)(N2CCCC2)N3CCCC3 | C16H33N4P
reactant | [2-Chloromethyl-1-(3-methanesulfonyl-propyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.36 mmol, 150 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CCl)CCCS(=O)(=O)C)C=C1)=O | C18H26ClN3O4S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(3-methanesulfonyl-propyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 40 mg, 18% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCS(=O)(=O)C)C=C1)=O | C28H32F3N5O6S
